US08202858B2
4-Hydroxy-3-methyl-benzoic Acid Methyl Ester
4-Amino-3-methyl-benzoic acid methyl ester (5.25 g, 32.0 mmol) was treated with a 35% solution of sulphuric acid (50 ml) and the mixture was stirred and heated until dissolution then cooled to 0° C. Sodium nitrite (2.82 g, 41.6 mmol) in water (50 ml) was added dropwise and the mixture was stirred for 5 min at 0° C. Urea was added to destroy the excess nitrite. Copper nitrate (121 g, 320 mmol) in water (11) was added then copper oxide (4.25 g, 32.0 mmol). The mixture was warmed up to room temperature over 30 min and extracted with EtOAc (×3). The organics were combined, washed with brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 30% EtOAc:70% hexane) to yield the title compound (2.2 g, 42%).

reactant | 4-Amino-3-methyl-benzoic acid methyl ester | 32.0 mmol, 5.25 g | COC(C1=CC(=C(C=C1)N)C)=O | C9H11NO2
reactant | sulphuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
reactant | Sodium nitrite | 41.6 mmol, 2.82 g | N(=O)[O-].[Na+]
reactant | Urea | NC(=O)N | CH4N2O
solvent | water | 50 ml | O | H2O
catalyst | Copper nitrate | 320 mmol, 121 g | [N+](=O)([O-])[O-].[Cu+2].[N+](=O)([O-])[O-]
catalyst | copper oxide | 32.0 mmol, 4.25 g | [Cu]=O
product | 4-Hydroxy-3-methyl-benzoic Acid Methyl Ester | 2.2 g, 42% | COC(C1=CC(=C(C=C1)O)C)=O | C9H10O3
